US09260450B2
Step ii. Thieno[3,2-c]pyridine-2-carboxylic acid methyl ester
To a solution of 4-bromo-pyridine-3-carbaldehyde (1.50 g, 8.06 mmol) in DMF (10 mL) and water (1 mL) was added K2CO3 (1.34 g, 9.68 mmol) and methyl thioglycolate (0.87 mL, 9.68 mmol). The mixture was heated at 45° C. for 18 hours. The reaction mixture was removed from the heating bath and diluted with water (50 mL). After 1 hour, the fluffy solid that formed was filtered and washed with water. The material thus obtained was dried in a 60° C. vacuum oven to a constant weight of 0.92 g (59%). MS m/z 194 (M+H)+.

reactant | 4-bromo-pyridine-3-carbaldehyde | 8.06 mmol, 1.50 g | BrC1=C(C=NC=C1)C=O | C6H4BrNO
reactant | K2CO3 | 9.68 mmol, 1.34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl thioglycolate | 9.68 mmol, 0.87 mL | C(CS)(=O)OC | C3H6O2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
product | Thieno[3,2-c]pyridine-2-carboxylic acid methyl ester | COC(=O)C1=CC=2C=NC=CC2S1 | C9H7NO2S
